US08012966B2
2-(7-Bromo-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(2-diethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 1 with 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 5-fluoro-7-bromo-1,3-dihydro-indol-2-one as starting materials to give 2-(7-bromo-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(2-diethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (62 mg, 78.2%) as an orange solid.

reactant | 5-(2-diethylamino-ethyl)-3-methyl-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | C(C)N(CCN1C(C2=C(CC1)NC(=C2C)C=O)=O)CC | C15H23N3O2
reactant | 5-fluoro-7-bromo-1,3-dihydro-indol-2-one | FC=1C=C2CC(NC2=C(C1)Br)=O | C8H5BrFNO
product | 2-(7-bromo-5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-5-(2-diethylamino-ethyl)-3-methyl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 62 mg, 78.2% | BrC=1C=C(C=C2C(C(NC12)=O)=CC1=C(C=2C(N(CCC2N1)CCN(CC)CC)=O)C)F | C23H26BrFN4O2
